US07888366B2
3,5-Difluorobenzyl alcohol (595.2 mg; 4 mmol) was added to a cooled (0° C.) slurry of sodium hydride (172.5 mg; 4.3 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. The reaction mixture was then added to a cooled (0° C.) solution of 2,6-difluorobenzonitrile in dimethylformamide, stirred for 4 hours at room temperature. The reaction mixture was poured on crushed ice-water, stirred, filtered, washed with water and dried to afford 547.3 milligrams of 2-fluoro-6-(3,5-diflurophenylmethoxy)benzonitrile.

reactant | 3,5-Difluorobenzyl alcohol | 4 mmol, 595.2 mg | FC=1C=C(CO)C=C(C1)F | C7H6F2O
reactant | sodium hydride | 4.3 mmol, 172.5 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-6-(3,5-diflurophenylmethoxy)benzonitrile | 547.3 milligrams | FC1=C(C#N)C(=CC=C1)OCC1=CC(=CC(=C1)F)F | C14H8F3NO
